US04041173
To 2.2 ml of concentrated hydrochloric acid and 2.0 ml of pyridine which were heated to 220° for 20 minutes, 2.00 g of 2- carboxy-7-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene was added. The mixture was heated to 210°-215° for 90 minutes, then cooled and diluted with water. The product was filtered off and recrystallized from aqueous ethanol to give 2-carboxy-7-hydroxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene, m.p. 256°-257°. Similarly, the 8-hydroxy and 9-hydroxy compounds of this invention are obtained from 2-carboxy-8-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene and 2-carboxy-9-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene, respectively.

reactant | hydrochloric acid | 2.2 ml | Cl | ClH
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | 2- carboxy-7-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | 2.00 g | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)OC)=O)C=C1 | C17H14O4
solvent | water | O | H2O
product | 2-carboxy-7-hydroxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)O)=O)C=C1 | C16H12O4
